US05093370
1,4-Bis[4-(1-methyl-1-piperidinio)pentylbenzene dibromide
To a solution of 376 mg of 1,4-bis(5-bromopentyl)benzene in 2 ml of absolute ethanol, 365 μl of N-methylpyridine was added, and the mixture was refluxed for 5 hours. After concentration under a reduced pressure and addition of acetone, and the mixture was allowed to stand overnight. The product was filtered and recrystallized from ethanol (0.5 ml)--acetone (2 ml) to obtain 455 mg of the title compound as a colorless crystal.

reactant | 1,4-bis(5-bromopentyl)benzene | 376 mg | BrCCCCCC1=CC=C(C=C1)CCCCCBr | C16H24Br2
reactant | N-methylpyridine | 365 μl | CN1CC=CC=C1 | C6H9N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-(1-methyl-1-piperidinio)pentylbenzene dibromide | 455 mg | [Br-].[Br-].C[N+]1(CCCCC1)C(CCCC1=CC=CC=C1)C.C[N+]1(CCCCC1)C(CCCC1=CC=CC=C1)C | InChI=1S/2C17H28N.2BrH/c2*1-16(18(2)14-7-4-8-15-18)10-9-13-17-11-5-3-6-12-17;;/h2*3,5-6,11-12,16H,4,7-10,13-15H2,1-2H3;2*1H/q2*+1;;/p-2
